US07417047B2
Step e) 4-[2-Amino-4-(3-bromo-4-fluoro-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-(2-fluoro-ethyl)-1H-pyrrole-2-carboxylic acid methyl ester
To a solution of 0.742 gm (1.85 mmol) of 4-[2-(3-bromo-4-fluoro-phenyl)-2-oxo-acetyl]-1-(2-fluoro-ethyl)-1H-pyrrole-2-carboxylic acid methyl ester in 18 mL of MeOH and 21 mL of dioxane in a pressure tube was added 0.40 gm (3.7 mmol) of N-methylguanidine hydrochloride. After stirring at room temperature for 15 min, 0.41 gm (3.9 mmol) of Na2CO3 in 5.2 mL of H2O was added and the reaction mixture was sealed and heated to 85° C. for 4 h. The mixture was cooled and the solvents removed at reduced pressure. The residue was taken up in CH2Cl2 (200 mL) and washed with H2O (100 mL), saturated brine, dried (Na2SO4) and the solvent removed at reduced pressure. Chromatography on silica gel using a gradient of EtOAc to 3% MeOH-EtOAc yielded 0.64 gm (76% yield) of a white foam. 1H NMR (400 MHz, CDCl3) δ: 3.08 (s, 3H), 3.76 (s, 3H), 4.52 (m, 1H), 4.59 (m, 2H,), 4.71 (m, 1H), 6.92 (s, 1H), 6.94 (s, 1H), 7.04 (t, 1H, J=8.47 Hz), 7.50 (m, 1H), 8.28 (dd, 1H, J=2.2, 4.41 Hz).

reactant | 4-[2-(3-bromo-4-fluoro-phenyl)-2-oxo-acetyl]-1-(2-fluoro-ethyl)-1H-pyrrole-2-carboxylic acid methyl ester | 1.85 mmol, 0.742 gm | COC(=O)C=1N(C=C(C1)C(C(=O)C1=CC(=C(C=C1)F)Br)=O)CCF | C16H12BrF2NO4
reactant | N-methylguanidine hydrochloride | 3.7 mmol, 0.40 gm | Cl.CNC(=N)N
reactant | Na2CO3 | 3.9 mmol, 0.41 gm | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | MeOH | 18 mL | CO | CH4O
solvent | dioxane | 21 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5.2 mL | O | H2O
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 4-[2-Amino-4-(3-bromo-4-fluoro-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-(2-fluoro-ethyl)-1H-pyrrole-2-carboxylic acid methyl ester | 0.64 gm, 76% yield | COC(=O)C=1N(C=C(C1)C1(N=C(N(C1=O)C)N)C1=CC(=C(C=C1)F)Br)CCF | C18H17BrF2N4O3
